US05093370
N,N-Dimethyl-8-phenyloctylamine
To 538 mg of (8-bromooctyl)benzene were added 1 ml of ethanol and 1.05 ml of 50% aqueous diethylamine solution, and the mixture was stirred at a room temperature for 7.5 hours. To the mixture were added 30 ml of ethyl acetate and 5 ml of 5% sodium bicarbonate aqueous solution, and the resulting layers were separated. The organic layer was washed with water and a saturated sodium chloride aqueous solution, dried over magnesium sulfate, and evaporated under a reduced pressure. The residue was applied to a silica gel column and eluted with chloroform/methanol (9:1) to eliminate impurities appeared on the start point on thin layer chromatography. In this way, compound as colorless liquid, 378 mg of the title compound was obtained as colorless liquid.

reactant | (8-bromooctyl)benzene | 538 mg | BrCCCCCCCCC1=CC=CC=C1 | C14H21Br
reactant | ethanol | 1 ml | C(C)O | C2H6O
reactant | diethylamine | 1.05 ml | C(C)NCC | C4H11N
reactant | sodium bicarbonate | 5 ml | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | N,N-Dimethyl-8-phenyloctylamine | 378 mg | CN(C)CCCCCCCCC1=CC=CC=C1 | C16H27N
